* C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\lab3.asc
XU1 N006 0 N003 N002 Val LTC6101
Ro N002 Val 3m
V1 Val 0 60
Rs Val N003 1k
Rx N006 0 10k
I1 N002 N001 6
V2 Val N001 6
V3 Vdd 0 3.3
XU3 N007 N008 Vdd 0 N009 OPAx391
R2 N009 N008 20k
R1 N008 Vdd 180k
R0 0 N008 1.05k
V4 Vc 0 SINE(99m 81m 45) AC 1 0
R4 N007 Vc 15k
C2 0 N007 100n
R3 N004 N009 6.19k
R5 N010 N004 9.76k
C1 N010 0 100n
C4 N005 N004 383n
XU2 N010 N005 Vdd 0 N005 OPAx391
* .op
* .lib OPAx391.lib
.tran 0 0.2 0
* .ac dec 100 0.1 10000
.lib C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\OPAx391.LIB
.lib LTC3.lib
.backanno
.end
