* C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\lab3.asc
XU1 N014 N011 N008 N007 N005 LTC6101
Ro N007 N005 3m
VAL N005 0 60
Rs N008 N005 1k
Rx N014 0 1k
I1 N007 N016 SINE(3.3 2.7 45) AC 1 0
V2 N005 N016 6
VDD N006 0 3.3
XU3 N013 N015 N006 0 Vx OPAx391
R2 Vx N015 20k
R1 N015 N006 180k
R0 0 N015 1.05k
V4 N004 0 SINE(99m 81m 45) AC 1 0
R4 N013 Vc 15k
C2 0 N013 100n
R3 N009 Vx 6.19k
R5 N012 N009 9.76k
C1 N012 0 100n
C4 N010 N009 383n
XU2 N012 N010 N006 0 N010 OPAx391
D1 N011 N005 BZX84C6V2L
R6 N011 0 500k
.model D D
.lib C:\Users\skipi\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 0.2 0
* .ac dec 100 0.1 10000
.lib C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\OPAx391.LIB
.lib LTC3.lib
.backanno
.end
